US08609710B2
[Step 1] Benzyl (3-ethylcyclobutyl)carbamate
3-Ethylcyclobutanecarboxylic acid (1.67 g) was dissolved in toluene (20 mL), and diisopropylethylamine (5.32 mL) was added thereto. The solution was heated to 100° C., and a solution of diphenylphosphoryl azide (3.09 mL) in toluene (10 mL) was added dropwise thereto over 40 minutes. After stirring at 100° C. for 15 minutes, benzyl alcohol (1.48 mL) was added, and the mixture was further stirred at 100° C. for 15 minutes. The reaction solution was cooled. A 0.2 N aqueous sodium hydroxide was added thereto, and organic matter was extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and filtered, and the solvent was distilled off under reduced pressure to obtain a crude product. This crude product was purified by silica gel column chromatography (eluting solvent: hexane/ethyl acetate=20/1-10/1) to obtain the title compound (1.81 g, diastereomeric mixture, trans:cis=1:1).

reactant | 3-Ethylcyclobutanecarboxylic acid | 1.67 g | C(C)C1CC(C1)C(=O)O | C7H12O2
reactant | diisopropylethylamine | 5.32 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | diphenylphosphoryl azide | 3.09 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | benzyl alcohol | 1.48 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium hydroxide | 0.2 N | [OH-].[Na+]
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | Benzyl (3-ethylcyclobutyl)carbamate | 1.81 g | C(C)C1CC(C1)NC(OCC1=CC=CC=C1)=O | C14H19NO2
